US07238689B2
1.19 g (10.1 mmoles) of thionyl chloride was added, at room temperature, to a solution of 0.42 g (2.02 mmoles) of (4-methoxy-6-trifluoromethylpyrimidin-5-yl)-methanol. The mixture was stirred for 3 hours to give rise to a reaction. After confirmation of the completion of the reaction, the reaction mixture was subjected to vacuum distillation to remove the solvent contained therein, to obtain 0.45 g (yield: quantitative) of 5-chloromethyl-4-methoxy-6-trifluoromethylpyrimidine.

reactant | thionyl chloride | 10.1 mmoles, 1.19 g | S(=O)(Cl)Cl | Cl2OS
reactant | (4-methoxy-6-trifluoromethylpyrimidin-5-yl)-methanol | 2.02 mmoles, 0.42 g | COC1=NC=NC(=C1CO)C(F)(F)F | C7H7F3N2O2
product | 5-chloromethyl-4-methoxy-6-trifluoromethylpyrimidine | 0.45 g, yield: quantitative | ClCC=1C(=NC=NC1C(F)(F)F)OC | C7H6ClF3N2O
